US06083982
Synthesis of Racemic 2,7,8-Trimethyl-2-(β-carboxyethyl)-Chroman
To a solution of 2,3-dimethylphenol (0.01 mol) and boron trifluoride diethyl etherate (0.016 mol) in dioxane (10 mL, dried on sodium) in a flask was added γ-methyl-γ-vinylbutyrolactone (0.016 mol) in dioxane (5.0 mL) via syringe pump over 50 min at 110° C. (oil bath, reflux) under nitrogen. The reaction mixture was cooled to room temperature and diluted with ether (200 mL), then washed with water (100 mL, 2×50 mL) and dried over sodium sulfate. Ether was then removed in vacuum. The residue was dissolved in methanol (30 mL), and solvent was removed in vacuum. The reaction mixture was purified by flash column chromatography on silica gel (eluent ethyl acetate/hexane, 1:1). Fractions containing the desired chroman were pooled, solvent was removed, and the compound was crystallized from ethyl acetate/hexane. M.P.: 93-94° C.

reactant | 2,3-dimethylphenol | 0.01 mol | CC1=C(C=CC=C1C)O | C8H10O
reactant | boron trifluoride diethyl etherate | 0.016 mol | B(F)(F)F.CCOCC
reactant | γ-methyl-γ-vinylbutyrolactone | 0.016 mol | CC1(CCC(=O)O1)C=C | C7H10O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | ether | 200 mL | CCOCC | C4H10O
product | Racemic 2,7,8-Trimethyl-2-(β-carboxyethyl)-Chroman | CC1(OC2=C(C(=CC=C2CC1)C)C)CCC(=O)O | C15H20O3
